US08110585B2
trans-2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropanecarbaldehyde
Trans-[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanol (2000 mg, 9.89 mmol), 4 Å molecular sieves (800 mg), 4-methylmorpholine N-oxide (1.74 g, 14.8 mmol) and tetra-n-propylammonium perruthenate(VII) (174 mg, 0.494 mmol) were dissolved in acetonitrile (100 mL), and the mixture was stirred at room temperature for 2 hr. 2-Propanol was added and the mixture was stirred for 30 min, diluted with ethyl acetate, and washed with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give the title compound (1.62 g, yield 82%).

reactant | Trans-[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanol | 9.89 mmol, 2000 mg | CC1=NN2C(C(=CC=C2)[C@H]2[C@@H](C2)CO)=C1 | C12H14N2O
reactant | 4-methylmorpholine N-oxide | 14.8 mmol, 1.74 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 2-Propanol | CC(C)O | C3H8O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropanecarbaldehyde | 1.62 g, yield 82% | CC1=NN2C(C(=CC=C2)[C@H]2[C@@H](C2)C=O)=C1 | C12H12N2O
